2180-02-15 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - START [**2180-2-14**] 08:00 PM
   - admitted to CCU after cath
   - put out over 1L to 40mg IV lasix overnight
   - has some lower abdominal discomfort this morning, EKG no change
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2180-2-14**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-2-15**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 78 (65 - 85) bpm
   BP: 152/87(104) {133/66(87) - 159/96(136)} mmHg
   RR: 31 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
    PAP: (63 mmHg) / (43 mmHg)
   Total In:
                                                                    410 mL
                                                                     70 mL
   PO:
   TF:
   IVF:
                                                                    410 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    630 mL
   Urine:
                                                                    890 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -480 mL
                                                                   -560 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Gen: face tent in place, NAD, pleasant
   Neck: JVP to ear lobes when lying flat. Neck supple. No
   lymphadenopathy.
   CV: regular rhythm, normal rate, no m/r/g
   Resp: overall decreased breath sounds throughout the lung fields, more
   significantly decreased breath sounds at R base, mild crackles at right
   base, prolonged expiratory phase
   Abd: BS+, soft/NT/ND, no masses palpated
   Groin: right groin no hematoma, no femoral bruits.
   Ext: trace pulmonary edema, feet warm
   Peripheral Vascular: (Right radial pulse: 1+), (Left radial pulse: 1+),
   (Right DP pulse: 1+), (Left DP pulse: 1+)
   Neurologic: AOx3, grossly intact
   Labs / Radiology
   306 K/uL
   12.8 g/dL
   169 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.8 mEq/L
   19 mg/dL
   100 mEq/L
   142 mEq/L
   37.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2180-2-15**]  05:14 AM
   WBC
   12.6
   Hct
   37.4
   Plt
   306
   Cr
   0.9
   TropT
   0.87
   Glucose
   169
   Other labs: PT / PTT / INR:13.4/26.1/1.1, CK / CKMB /
   Troponin-T:35//0.87, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Cardiac cath: [**2179-2-14**]
   FINAL DIAGNOSIS:
   1. Three vessel coronary artery disease.
   2. Severe left and right ventricular diastolic dysfunction.
   3. Severe pulmonary hypertension.
   OSH blood culture:
 bottles positive for GPC, speciation and
   sensitivities pending
   Assessment and Plan
   72 yo F with known CAD presenting with progressive dypnea on exertion,
   with NSTEMI and acute decompensated congestive heart failure. Has known
   3VD on cardiac cath, and is awaiting evaluation for CABG.
   .
   # CORONARIES:  Multiple risk factors for CAD including DMII, HTN, HLD,
   and current smoker. s/p IMI in '[**66**] with RCA BMS placement. Transferred
   from OSH with NSTEMI, now down-trending cardiac enzymes. Given low CK,
   elevated troponin, and temporal symptoms x3 weeks, likely patient had
   acute ACS event a few weeks ago. Troponins are now down-trending.
   Patient had no anginal equivalent symptoms, which may be in the setting
   of diabetic neuropathy. Has 3VD on cardiac cath, with critical left
   main stenosis. Awaiting CABG.
   - continue ASA, beta-blocker, high dose statin
   - encourage smoking cessation
   - started low dose ACEI (captopril 6.25 mg PO TID) on CCU transfer
   given EF of 30%
   - hold heparin gtt for now, will restart when pt has anginal equivalent
   ("heart-burn" sx)
   - plavix washout for 5 days prior to CABG
   - f/u Csurg recs
   - may need carotid US and UA as part of the pre-op eval
   - urgent surgery if chest pain / angina equivalent unresponsive to
   nitro, morphine, oxygen
   - restart heparin gtt
   - remove swan catheter today
   .
   # PUMP:  Acute decompensated diastolic congestive heart failure (EF 30%
   on TTE on [**2180-2-14**]) likely in setting of ischemia.  Left heart cath shows
   elevated pulmonary wedge pressures, indicating elevated LVEDP. Patient
   with evidence of pulmonary hypertension (elevated pulmonary arterial
   pressures) likely worsened in setting of elevated PCWP. Patient has
   evidence of both right and left sided heart failure. Received 60 mg of
   IV lasix in cath lab, and another dose of 40mg IV lasix, with good UOP.
   - low Na diet, fluid restriction < 2 L daily, strict Is and Os, daily
   weight
   - lasix 40mg IV this am, with goal -1L to -1.5L today
   - [**Hospital1 **] electrolytes
   - continue ACEI (captopril) given depressed EF
   - continue BB
   - remove swan today
   .
   # Pulmonary Hypertension: patient is a current smoker, and her lung
   exam reveals decreased breath sounds throughout lung fields, prolonged
   expiratory phase, consistent with COPD.  COPD could have contributed to
   pulmonary hypertension.  Furthermore, elevated wedge pressure could
   also worsen pulmonary hypertension.  Another source of pulmonary
   hypertension is cor pulmonale from malignancy.  Pt admits to 30 lb
   weight loss over past 6 months, unintentional. States up to date cancer
   screening including mammograms and pap smears, but no colonoscopies.
   CXR from [**2-13**] indicates that the interstitial abnormality in the left
   lung with sufficient nodularity to raise concern for lymphangitic
   carcinomatosis.  This is concerning especially given her smoking
   history.  However, her weight loss and decreased appetite could be due
   to related to heart failure and bowel congestion, especially given her
   elevated PA pressure.
   - aggressively treat heart failure as above to reduce wedge pressure
   - encourage smoking cessation
   - f/u final CTA read
   - pt will need outpatient pulm f/u for pulmonary hypertension
   - need colonoscopy to work up this weight loss
   - pt will need regular outpatient f/u
   - remove swan today
   .
   # RHYTHM: sinus rhythm, has 1' AV block on EKG. 1' AV block may be due
   to decreased coronary supply to AV node from RCA. Hemodynamically
   stable.
   - continue beta-blocker
   - monitor pt on telemetry
   .
   # SOB: likely secondary to heart failure.  PE is less likely given pt
   is ambulatory, no calf pain, no recent plain rides, no asymmetric LE
   exam.
   - treat CHF as above
   - f/u on final PE-CT read
   - O2 as needed
   .
   # Diabetes Mellitus II: non-insulin dependent. HgA1c 7.0%
   - continue RISS
   - diabetic diet
   - bloos sugar QID
   .
   # Hypertension:
   - continue BB, captopril
   - will uptitrate captopril and down-titrate hydralazine
   .
   # Peripheral vascular disease: Patient has known PVD and is s/p R iliac
   stent. Stable exertional calf claudication. LDL on lipid panel not at
   goal (98, goal 70-80).
   - continue ASA, high dose statin
   .
   # Positive blood culture from OSH:
 bottles positive for GPC at [**Hospital1 **].  Possible contamination but need to f/u OSH micro.
   - call [**Hospital3 **] today regarding speciation and sensitivity
   .
   # Med non-compliance:
   - SW consult
   .
   # Smoking cessation:
   - offered nicotine patch, pt refused
   ICU Care
   Nutrition: diabetic cardiac diet
   Glycemic Control:  insulin
   Lines:
   PA Catheter - [**2180-2-14**] 08:00 PM
   20 Gauge - [**2180-2-14**] 08:33 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: none
   VAP:  n/a
   Comments:
   Communication:  Comments: [**Doctor First Name 2476**] (dtr) [**Telephone/Fax (1) 10204**] (cell)
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Doctor Last Name **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2180-2-15**] 15:25 ------

2180-02-16 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2180-2-15**] 11:42 AM
   - OSH cultures positive for 1/2 bottles of coagulase negative staph
   - Swan pulled
   - Heparin gtt restarted
   - CTA without PE, but bilateral pleural effusions R > L
   - Hydral D/C'd
   - Captopril uptitrated to 12.5mg TID with sbp's in the 120's
   - U/A positive, started on PO Cipro x 3 days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-2-15**] 10:34 AM
   Heparin Sodium - [**2180-2-15**] 01:40 PM
   Furosemide (Lasix) - [**2180-2-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-2-16**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 61 (57 - 74) bpm
   BP: 121/60(77) {110/48(68) - 154/84(102)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.5 kg (admission): 59 kg
   Height: 62 Inch
    PAP: (51 mmHg) / (29 mmHg)
   Total In:
                                                                  1,196 mL
                                                                    112 mL
   PO:
                                                                    960 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    236 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  1,785 mL
                                                                    810 mL
   Urine:
                                                                  1,785 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -589 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/44/77.[**Numeric Identifier **]/31/7
   Physical Examination
   Gen: NAD, pleasant
   Neck: JVP to ear lobes when lying flat. Neck supple. No
   lymphadenopathy.
   CV: regular rhythm, normal rate, no m/r/g
   Resp: overall decreased breath sounds throughout the lung fields, more
   significantly decreased breath sounds at R base, mild crackles at right
   base, prolonged expiratory phase
   Abd: BS+, soft/NT/ND, no masses palpated
   Groin: right groin no hematoma, no femoral bruits.
   Ext: trace LE edema, feet warm
   Peripheral Vascular: (Right radial pulse: 1+), (Left radial pulse: 1+),
   (Right DP pulse: 1+), (Left DP pulse: 1+)
   Neurologic: AOx3, grossly intact
   Labs / Radiology
   286 K/uL
   12.7 g/dL
   101 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   18 mg/dL
   102 mEq/L
   142 mEq/L
   37.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2180-2-15**]  05:14 AM
                             [**2180-2-15**]  01:50 PM
                             [**2180-2-15**]  03:51 PM
                             [**2180-2-16**]  06:00 AM
   WBC
   12.6
   10.0
   Hct
   37.4
   38.9
   37.4
   Plt
   306
   286
   Cr
   0.9
   0.9
   0.8
   TropT
   0.87
   TCO2
   33
   Glucose
   169
   114
   101
   Other labs: PT / PTT / INR:12.9/40.8/1.1, CK / CKMB /
   Troponin-T:35//0.87, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   MICRO:
   Urine and blood cx [**2-15**]: NGTD
   Assessment and Plan
   72 yo F with known CAD presenting with progressive dypnea on exertion,
   with NSTEMI and acute decompensated congestive heart failure. Has known
   3VD on cardiac cath, and is awaiting CABG.
   .
   # CORONARIES:  Multiple risk factors for CAD including DMII, HTN, HLD,
   and current smoker. s/p IMI in '[**66**] with RCA BMS placement. Transferred
   from OSH with NSTEMI, now down-trending cardiac enzymes. Given low CK,
   elevated troponin, and temporal symptoms x3 weeks, likely patient had
   acute ACS event a few weeks ago. Troponins are now down-trending.
   Patient had no anginal equivalent symptoms, which may be in the setting
   of diabetic neuropathy. Has 3VD on cardiac cath, with critical left
   main stenosis. Awaiting CABG.
   - continue ASA, BB, high dose statin, ACEI, heparin gtt
   - encourage smoking cessation
   - plavix washout for prior to CABG
   - f/u Csurg recs
   - may need carotid US as part of the pre-op eval
   - urgent surgery if chest pain / angina equivalent unresponsive to
   nitro, morphine, oxygen
   .
   # PUMP:  Patient has evidence of both right and left sided heart
   failure, has both diastolic and systolic heart dysfunction.  EF 30% on
   TTE on [**2180-2-14**], acute decompensation that prompted this admissiion
   likely in setting of ischemia.  Left heart cath shows elevated
   pulmonary wedge pressures, indicating elevated LVEDP. Patient with
   evidence of pulmonary hypertension (elevated pulmonary arterial
   pressures), which is likely chronic, leading to RV diastolic
   dysfunction and peripheral congestion.  Her sx of SOB is likely
   secondary to heart failure.  PE is less likely given pt is ambulatory,
   no calf pain, no recent plain rides, no asymmetric LE exam.  CTA ruled
   out PE.   Pt received 40mg IV lasix x 2 yesterday am and pm, 60mg IV
   lasix at midnight (total of 140mg), approx -600cc balance over the past
   24h
   - continue BB, ACEI
   - low Na diet, fluid restriction < 2 L daily, strict Is and Os, daily
   weight
   - continue lasix, with goal -1L today
   - [**Hospital1 **] electrolytes while on diuresis
   - O2 as needed
   .
   # Pulmonary Hypertension: patient is a current smoker, and her lung
   exam reveals decreased breath sounds throughout lung fields, prolonged
   expiratory phase, consistent with COPD.  COPD could have contributed to
   pulmonary hypertension.  Furthermore, elevated wedge pressure could
   also worsen pulmonary hypertension.  Another source of pulmonary
   hypertension is cor pulmonale from malignancy.  Pt admits to 30 lb
   weight loss over past 6 months, unintentional. States up to date cancer
   screening including mammograms and pap smears, but no colonoscopies.
   CXR from [**2-13**] indicates that the interstitial abnormality in the left
   lung with sufficient nodularity to raise concern for lymphangitic
   carcinomatosis.  However, CT showed no evidence for it.  Her weight
   loss and decreased appetite could be due to related to heart failure
   and bowel congestion, especially given her elevated PA pressure.
   - aggressively treat heart failure as above
   - encourage smoking cessation
   - pt will need outpatient pulm f/u for pulmonary hypertension
   - need colonoscopy to work up this weight loss
   .
   # RHYTHM: sinus rhythm, has 1' AV block on EKG. 1' AV block may be due
   to decreased coronary supply to AV node from RCA. Hemodynamically
   stable.
   - continue beta-blocker
   - monitor pt on telemetry
   .
   # Diabetes Mellitus II: non-insulin dependent. HgA1c 7.0%
   - continue RISS
   - diabetic diet
   - blood sugar QID
   .
   # Hypertension:
   - continue BB, captopril
   - will uptitrate captopril and down-titrate hydralazine
   .
   # Peripheral vascular disease: Patient has known PVD and is s/p R iliac
   stent. Stable exertional calf claudication. LDL on lipid panel not at
   goal (98, goal 70-80).
   - continue ASA, high dose statin
   .
   # UTI:  UA was positive on [**2-15**].  blood cx from [**Hospital3 **] grew out
   Coag neg staph, likely contamination.
   - continue cipro for 3 days for uncomplicated UTI
   - continue to trend WBC and fever
   .
   # Med non-compliance:
   - SW consult
   .
   # Smoking cessation:
   - offered nicotine patch, pt refused
   ICU Care
   Nutrition:
   Regular diabetic cardiac healthy diet
   Glycemic Control:  insulin
   Lines:
   20 Gauge - [**2180-2-15**] 11:50 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: none
   VAP:  n/a
   Comments:
   Communication:  Comments: [**Doctor First Name 2476**] (dtr) [**Telephone/Fax (1) 10204**] (cell)
   Code status: Full code
   Disposition: back to [**Hospital1 2266**] service
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   Medical Decision Making
   Well on IV UFH awaiting CABG on Friday.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2180-2-16**] 10:17 ------

2180-02-17 07:21:00 Physician Resident Progress Note
Chief Complaint: dyspnea on exertion
   24 Hour Events:
 EKG - At [**2180-2-16**] 08:30 AM
 ULTRASOUND - At [**2180-2-16**] 03:22 PM
   carotid ultrasound
   - T&S with AM labs
   - staying in CCU for nursing concern re: ambulatory desat to 80's
   - started on Lasix drip at 5/hr
   - evaluated at 930pm, was saturating at 99 on RA after deep breaths;
   clinical signs of right pleural effusion.
   - patient very anxious about CABG, episode of insomnia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Parenteral nutrition
   Genitourinary: Foley, urine clear, but red sediment in foley bag
   Flowsheet Data as of  [**2180-2-17**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 57 (57 - 78) bpm
   BP: 133/63(81) {117/46(63) - 168/78(97)} mmHg
   RR: 19 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 54.7 kg (admission): 59 kg
   Height: 62 Inch
             Total In:
                                                                  1,183 mL
                                                                    133 mL
   PO:
                                                                    880 mL
             TF:
   IVF:
                                                                    303 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  2,537 mL
                                                                  1,250 mL
   Urine:
                                                                  2,537 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,354 mL
                                                                 -1,117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear , but diminished throughout
   and absent at bases bilaterally, prolonged expiratory phase)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Mild venous stasis at ankles bilaterally
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   317 K/uL
   13.5 g/dL
   154 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.4 mEq/L
   20 mg/dL
   97 mEq/L
   141 mEq/L
   40.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2180-2-15**]  05:14 AM
                             [**2180-2-15**]  01:50 PM
                             [**2180-2-15**]  03:51 PM
                             [**2180-2-16**]  06:00 AM
                             [**2180-2-16**]  03:49 PM
                             [**2180-2-17**]  04:57 AM
   WBC
   12.6
   10.0
   9.4
   Hct
   37.4
   38.9
   37.4
   40.1
   Plt
   [**Telephone/Fax (3) 10272**]
   Cr
   0.9
   0.9
   0.8
   1.1
   0.8
   TropT
   0.87
   TCO2
   33
   Glucose
   169
   114
   101
   170
   154
   Other labs: PT / PTT / INR:13.9/56.4/1.2, CK / CKMB /
   Troponin-T:35//0.87, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   72 yo F with known CAD presenting with progressive dypnea on exertion,
   with NSTEMI and acute decompensated congestive heart failure. Has known
   3VD on cardiac cath, and is awaiting CABG.
   .
   # CORONARIES:  Patient with subacute NSTEMI (without anginal symptoms)
   now with downtrending Troponins, awaiting CABG for 3VD & critical left
   main stenosis. Multiple risk factors for CAD including DMII, HTN, HLD,
   and current smoker. s/p IMI in '[**66**] with RCA BMS placement. Carotid U/S
   performed on [**2-16**] preliminary read was 40% stenoses bilaterally. Patient
   stable since admission, but de-sating with ambulation, so will remain
   in CCU until surgery.
   - F/U final read of carotid U/S
   - continue ASA, BB, high dose statin, ACEI, heparin gtt
   - plavix washout for prior to CABG
   - f/u Csurg recs
   - urgent surgery if chest pain / angina equivalent unresponsive to
   nitro, morphine, oxygen
   .
   # PUMP:  Patient has evidence of both right and left sided heart
   failure, has both diastolic and systolic heart dysfunction.  EF 30% on
   TTE on [**2180-2-14**], acute decompensation that prompted this admissiion
   likely in setting of ischemia.  Left heart cath shows elevated
   pulmonary wedge pressures, indicating elevated LVEDP. Patient with
   evidence of pulmonary hypertension (elevated pulmonary arterial
   pressures), which is likely chronic, leading to RV diastolic
   dysfunction and peripheral congestion.  Her sx of SOB is likely
   secondary to heart failure.   CTA ruled out PE.
   - continue BB, ACEI
   - low Na diet, fluid restriction < 2 L daily, strict Is and Os, daily
   weight
   - decrease lasix gtt to 2.5/hr with goal -2L today
   - [**Hospital1 **] electrolytes while on diuresis
   - wean O2 as tolerates
   - Repeat CXR today pre-op & assess for changes in fluid status
   .
   # Pulmonary Hypertension: patient is a current smoker, and her lung
   exam reveals decreased breath sounds throughout lung fields, prolonged
   expiratory phase, consistent with COPD.  COPD could have contributed to
   pulmonary hypertension.  Furthermore, elevated wedge pressure could
   also worsen pulmonary hypertension.  Another source of pulmonary
   hypertension is cor pulmonale from malignancy.  Pt admits to 30 lb
   weight loss over past 6 months, unintentional. States up to date cancer
   screening including mammograms and pap smears, but no colonoscopies.
   CXR from [**2-13**] indicates interstitial abnormality in the left lung with
   sufficient nodularity to raise concern for lymphangitic
   carcinomatosis.  However, CT showed no evidence for it.  Her weight
   loss and decreased appetite could be due to related to heart failure
   and bowel congestion, especially given her elevated PA pressure.
   - aggressively treat heart failure as above
   - encourage smoking cessation
   - pt will need outpatient pulm f/u for pulmonary hypertension
   - need colonoscopy to work up this weight loss
   .
   # RHYTHM: sinus rhythm, has 1' AV block on EKG. 1' AV block may be due
   to decreased coronary supply to AV node from RCA. Hemodynamically
   stable.
   - continue beta-blocker
   - on telemetry
   .
   # Diabetes Mellitus II: non-insulin dependent. HgA1c 7.0%
   - continue RISS
   - diabetic diet
   - blood sugar QACHS
   .
   # Hypertension:
   - continue BB
   - Captopril at 25mg PO TID
   .
   # Peripheral vascular disease: Patient has known PVD and is s/p R iliac
   stent. Stable exertional calf claudication. LDL on lipid panel not at
   goal (98, goal 70-80).
   - continue ASA, high dose statin
   .
   # UTI:  UA was positive on [**2-15**].  blood cx from [**Hospital3 **] grew out
   Coag neg staph, likely contamination.
   - continue cipro for 3 days for uncomplicated UTI, day [**3-15**]
   - continue to trend WBC and fever
   .
   # Med non-compliance:
   - SW consult
   .
   # Smoking cessation:
   - offered nicotine patch, pt refused
   ICU Care
   Nutrition: cardiac/diabetic diet, NPO after MN on [**2180-2-18**] for surgery
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2180-2-15**] 11:50 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: -
   VAP:  -
   Comments: Trazodone PRN insomnia
   Communication:  Comments: patient & daughter
   [**Name (NI) 129**] status: Full code
   Disposition: pending cardiac surgery
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10179**].
   I would add the following remarks:
   Medical Decision Making
   She is stable awaiting CABG in am. Will diurese gently further.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2180-2-17**] 12:06 ------

2180-02-18 06:51:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
   [**2-17**]:
   - carotid US: Right ICA stenosis <40%. Left ICA stenosis <40%.
   - Csurg put in orders, OR tomorrow
   - d/c'd lasix gtt at 4pm when UOP decreased and pt appeared dry. lasix
   gtt restarted at midnight given I/O only around -400cc for the day.
   - foley d/c'd at 7pm given hematuria/foley trauma.
   - pt continued to be hypoxic on room air, likely her baseline
   - was seen by anesthesia
   - went to OR at 0700
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2180-2-17**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Furosemide (Lasix) - 2.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, No(t) Dyspnea, improved cough
   Psychiatric / Sleep: slept well
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-2-18**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 65 (53 - 80) bpm
   BP: 139/57(75) {103/51(64) - 139/73(86)} mmHg
   RR: 17 (8 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.3 kg (admission): 59 kg
   Height: 62 Inch
             Total In:
                                                                  1,374 mL
                                                                     82 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                    334 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    350 mL
   Urine:
                                                                  1,745 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -371 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   right mid field, left base, Diminished: On Right)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   278 K/uL
   14.3 g/dL
   122 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.0 mEq/L
   22 mg/dL
   97 mEq/L
   142 mEq/L
   41.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2180-2-15**]  05:14 AM
                             [**2180-2-15**]  01:50 PM
                             [**2180-2-15**]  03:51 PM
                             [**2180-2-16**]  06:00 AM
                             [**2180-2-16**]  03:49 PM
                             [**2180-2-17**]  04:57 AM
                             [**2180-2-17**]  02:58 PM
                             [**2180-2-18**]  03:36 AM
   WBC
   12.6
   10.0
   9.4
   9.6
   Hct
   37.4
   38.9
   37.4
   40.1
   41.7
   Plt
   [**Telephone/Fax (3) 10289**]78
   Cr
   0.9
   0.9
   0.8
   1.1
   0.8
   0.8
   1.0
   TropT
   0.87
   TCO2
   33
   Glucose
   169
   114
   101
   170
   154
   189
   122
   Other labs: PT / PTT / INR:13.7/75.3/1.2, CK / CKMB /
   Troponin-T:35//0.87, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   72 yo F with known CAD presenting with progressive dypnea on exertion,
   with NSTEMI and acute decompensated congestive heart failure. Has known
   3VD on cardiac cath, and is awaiting CABG.  She was taken to the OR and
   therefore off of the CCU service on [**2180-2-18**]. She has several issues;
   .
   # CORONARIES:  Patient with subacute NSTEMI (without anginal symptoms)
   now with downtrending Troponins, awaiting CABG for 3VD & critical left
   main stenosis. Multiple risk factors for CAD including DMII, HTN, HLD,
   and current smoker. s/p IMI in '[**66**] with RCA BMS placement. Carotid U/S
   performed on [**2-16**] preliminary read was 40% stenoses bilaterally. Patient
   stable since admission, but de-sating with ambulation, so will remain
   in CCU until surgery.
   - To OR today
   - continue ASA, BB, high dose statin, ACEI, heparin gtt
   - patient given smoking cessation information by SW
   .
   # PUMP:  Patient has evidence of both right and left sided heart
   failure, has both diastolic and systolic heart dysfunction.  EF 30% on
   TTE on [**2180-2-14**], acute decompensation that prompted this admissiion
   likely in setting of ischemia.  Left heart cath shows elevated
   pulmonary wedge pressures, indicating elevated LVEDP. Patient with
   evidence of pulmonary hypertension (elevated pulmonary arterial
   pressures), which is likely chronic, leading to RV diastolic
   dysfunction and peripheral congestion. Serial CXR and physical exams
   show significant right effusiom  Her sx of SOB is likely secondary to
   heart failure.   CTA ruled out PE.
   - continue BB, ACEI
   - low Na diet, fluid restriction < 2 L daily, strict Is and Os, daily
   weight
   - continue diuresis
   - [**Hospital1 **] electrolytes while on diuresis
   - wean O2 as tolerates; patient may need home 02, reassess post-op
   .
   # Pulmonary Hypertension: patient is a current smoker, and her lung
   exam reveals decreased breath sounds throughout lung fields, prolonged
   expiratory phase, consistent with COPD.  COPD could have contributed to
   pulmonary hypertension.  Furthermore, elevated wedge pressure could
   also worsen pulmonary hypertension.  Another source of pulmonary
   hypertension is cor pulmonale from malignancy.  Pt admits to 30 lb
   weight loss over past 6 months, unintentional. States up to date cancer
   screening including mammograms and pap smears, but no colonoscopies.
   CXR from [**2-13**] indicates interstitial abnormality in the left lung with
   sufficient nodularity to raise concern for lymphangitic
   carcinomatosis.  However, CT showed no evidence for it.  Her weight
   loss and decreased appetite could be due to related to heart failure
   and bowel congestion, especially given her elevated PA pressure.
   - aggressively treat heart failure as above
   - encourage smoking cessation
   - pt will need outpatient pulm f/u for pulmonary hypertension
   - need colonoscopy to work up this weight loss
   - communicate these plans to CSURG team
   .
   # Diabetes Mellitus II: non-insulin dependent. HgA1c 7.0%. Patient not
   likely to benefit from intensive glucose control. However, needs better
   control than currently managing.
   - continue RISS in house
   - diabetic diet
   - blood sugar QACHS
   - restart metformin outpatient
   .
   # RHYTHM: sinus rhythm, has 1' AV block on EKG. 1' AV block may be due
   to decreased coronary supply to AV node from RCA. Hemodynamically
   stable.
   - continue beta-blocker
   - on telemetry
   .
   # Hypertension:
   - continue BB
   - Captopril at 25mg PO TID
   .
   # Peripheral vascular disease: Patient has known PVD and is s/p R iliac
   stent. Stable exertional calf claudication. LDL on lipid panel not at
   goal (98, goal 70-80).
   - continue ASA, high dose statin
   .
   # UTI:  UA was positive on [**2-15**].  blood cx from [**Hospital3 **] grew out
   Coag neg staph, likely contamination.
   - continue cipro for 3 days for uncomplicated UTI, day [**3-15**]
   - continue to trend WBC and fever
   .
   # Med non-compliance:
   - SW consult
   .
   # Smoking cessation:
   -          offered nicotine patch, pt refused. Offer again
   -          motivated to quit per SW consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-2-15**] 11:50 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:To OR